US08912188B2
To a solution of 2-[5-(4-fluorophenyl)furan-2-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (442 mg, crude) in dioxane (5.5 mL) and water (3 drops) was added methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (150 mg, 0.51 mmol), K3PO4 (324.9 mg, 1.53 mmol) and Pd(PPh3)4 (29.5 mg, 0.03 mmol) with stirring for 40 min at 90° C. in an oil bath maintained under an inert atmosphere of nitrogen. The reaction mixture was concentrated under reduced pressure to give the residue, which was purified via silica gel chromatography (2% ethyl acetate in petroleum ether) to afford methyl 2-[5-(4-fluorophenyl)furan-2-yl]-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate as light yellow solid (150 mg, 55%).

reactant | 2-[5-(4-fluorophenyl)furan-2-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 442 mg | FC1=CC=C(C=C1)C1=CC=C(O1)B1OC(C(O1)(C)C)(C)C | C16H18BFO3
reactant | methyl 2-chloro-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.51 mmol, 150 mg | ClC1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C14H16ClN3O2
reactant | K3PO4 | 1.53 mmol, 324.9 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5.5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 29.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-[5-(4-fluorophenyl)furan-2-yl]-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 150 mg, 55% | FC1=CC=C(C=C1)C1=CC=C(O1)C1=NC2=CC=C(C=C2N=C1N(C(C)C)C)C(=O)OC | C24H22FN3O3
